* D:\Projects\Automatsko-Osvetljenje\Simulation\Draft4.asc
D1 0 N002 1N750
V1 N001 0 PWL(0 0 10 24)
R2 N001 N002 10k
R3 N002 0 9.1k
.model D D
.lib C:\Users\DarkOS\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 15
.backanno
.end
